US04287085
50 g (0.37 mol) of commercially available p-hydroxybenzoic acid was dissolved in 370 ml glacial acetic acid by heating with stirring. Heating was continued after the acid dissolved and 59 g (0.37 mol) bromine dissolved in 60 ml glacial acetic acid was rapidly added to the boiling solution to avoid bumping. The solution was refluxed for six hours with continuing stirring. Following reflux, the reaction solution was permitted to stand and cooled to room temperature. The cooled solution was poured into two liters of cold water. A white precipitate was formed. The white crystals were filtered by suction and were recrystalized with glacial acetic acid to yield 55.2 g of purified 3-bromo-4-hydroxybenzoic acid. The calculated yield was 70.3%.

reactant | p-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | bromine | 0.37 mol, 59 g | BrBr | Br2
reactant | water | two liters | O | H2O
solvent | acetic acid | 370 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-4-hydroxybenzoic acid | 55.2 g, yield was 70.3% | BrC=1C=C(C(=O)O)C=CC1O | C7H5BrO3
